US04579585
N-[4-(1-methoxymethyl-ethenyl)phenyl]-N-methyl urea
To a solution of 8.2 g (0.05 Mol) 4-(1-methoxymethyl-ethenyl)aniline in 200 ml absolute diethylether are added, at ambient temperature, 4 ml (0.067 Mol) methylisocyanate. The resulting reaction solution is, after the addition of 0.3 g dibutyl tin diacetate, kept at room temperature for 20 hours.

reactant | 4-(1-methoxymethyl-ethenyl)aniline | 0.05 Mol, 8.2 g | COCC(=C)C1=CC=C(N)C=C1 | C10H13NO
reactant | methylisocyanate | 0.067 Mol, 4 ml | CN=C=O | C2H3NO
reactant | dibutyl tin diacetate | 0.3 g | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
product | N-[4-(1-methoxymethyl-ethenyl)phenyl]-N-methyl urea | COCC(=C)C1=CC=C(C=C1)N(C(=O)N)C | C12H16N2O2
